US07968570B2
A mixture of 2-bromomethyl-6-chloro-benzoic acid methyl ester (0.132 g, 0.5 mmol), 1-(4-chlorophenyl)-ethylamine (0.117 g, 0.6 mmol), and K2CO3 (0.207 g, 1.5 mmol) in toluene (4 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 7-chloro-2-[1-(4-chloro-phenyl)-ethyl]-2,3-dihydro-isoindol-1-one (0.132 g, 86%). 1H NMR (300 MHz, CDCl3): δ (ppm) 1.66 (d, 3H), 3.95 (d, 1H), 4.34 (d, 1H), 5.84 (q, 1H) 7.26-7.46 (m, 7H). GC-MS: m/z 306 (M)+.

reactant | 2-bromomethyl-6-chloro-benzoic acid methyl ester | 0.5 mmol, 0.132 g | COC(C1=C(C=CC=C1Cl)CBr)=O | C9H8BrClO2
reactant | 1-(4-chlorophenyl)-ethylamine | 0.6 mmol, 0.117 g | ClC1=CC=C(C=C1)C(C)N | C8H10ClN
reactant | K2CO3 | 1.5 mmol, 0.207 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 7-chloro-2-[1-(4-chloro-phenyl)-ethyl]-2,3-dihydro-isoindol-1-one | 0.132 g, 86% | ClC=1C=CC=C2CN(C(C12)=O)C(C)C1=CC=C(C=C1)Cl | C16H13Cl2NO
